Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Generalized weakness
Hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ with history of peripheral vascular disease 
including abdominal aortic aneurysm, coronary artery disease 
status post multiple stents, Alzheimer's dementia, and stage 
IIIB limited small-cell lung cancer status post 4 cycles of 
carboplatin/etoposide (cycle 4 completed ___ and radiation 
therapy (last ___ who presents with generalized weakness 
and hypotension. Following polysomnia x2 months and poor oral 
intake x1 month, she was seen by ___ on the day of admission and 
noted to be fatigued, hypotensive (82/56), and mildly 
tachycardic (100). She denied fevers/chills, chest pain, 
cough/shortness of breath, abdominal pain, or dysuria/hematuria. 
Of note, she was admitted recently for weakness and hypotension 
in ___ and found to be orthostatic, likely secondary to 
hypovolemia.  

In the ED, she was afebrile and mildly hypotensive (87/65), but 
fluid-responsive, with resolution of tachycardia. Admission labs 
were notable for chronic stable macrocytic anemia, lactate of 
2.0, elevated BUN:Cr ratio, and negative urinalysis. CTA 
demonstrated stable abdominal aortic aneurysm, for which no 
acute intervention  was advised by vascular surgery in the ED. 
CXR was negative.

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per Dr. ___ ___ progress 
note):
-approx ___: started to develop poor appetite, weight loss,
dizziness. Notes show weight loss of 40 lbs since that time, but
may be ___  lbs objectively. Progressive memory loss started 
as
well.
-___: catscan follow-up of AAA revealed pulmonary
abnormalities in lung with right lower lobe spiculated nodule 
and
mediastinal lymph nodes s/p EBUS-TBNA
-___: biopsy of right hilar and distal mediastinal lymph
node and left mediastinal node show small-cell lung cancer,
pathologic grade T1N3M0, Stage IIIB 
-___: started cycle 1 of carboplatin/etoposide
-___: start of cycle 3 and XRT
-___: completion of cycle 4
-___: completion of 6300 cGy of XRT

PAST MEDICAL HISTORY (per Dr. ___ ___ admission note):  

-AAA 6cm, followed by Dr. ___  
-___, non Q MI ___ s/p stent vs angioplasty LCx ___ 
rotablation and stent of mid-LAD ___ POBA of LAD in-stent 
restenosis ___ distal sent ___. Last cardiac catheterization 
___ with 20% stenosis of LAD origin with mild in-stent 
restenosis and patent circumflex with mild in-stent restenosis 
and 30% RCA stenosis. TTE ___ LVEF 40-45% with anterior distal 
septal and apical akinesis, trace MR, trace TR.  
-HTN  
-HLD  
-Alzheimer's dementia  
-LBBB  
-Anxiety, panic  
-Elevated A1c 6.6, ___  
-S/p tonsillectomy  
 
Social History:
___
Family History:
Most family members, including brother (then age ___, sister 
(then age ___, and father (then age ___, have died of MI. Mother 
died at age ___ in childbirth. 

 
Physical Exam:
On admission:
VS: Afebrile, AVSS 
GEN: Pale-appearing, NAD  
HEENT: NCAT. EOMI. dry MM. no JVD. neck supple.  
CV: RRR, normal S1/S2, distant heart sounds, but no murmurs, 
rubs or gallops appreciated.  
LUNG: CTAB, no wheezes, rales or rhonchi  
ABD: soft, NT/ND, +BS. no rebound or guarding. neg HSM.  
EXT: W/WP, no edema, no C/C. 2+ ___ pulses bilaterally.  
SKIN: W/D/I  
NEURO: Alert & oriented x ~2 (person, ___, ___ or 
___, year: "12"), No focal deficit, moving all extremities 
 
PSYCH: appropriate affect

At discharge:
VS: AF/98.6, 148/92 (100s-160s/60s-90s), 82, 18, 97% (90-97%)
Orthostatic VS: 144/90 -> 136/89 -> 101/70
I/O 24h: 710 + 808/BR + BM x2 
GEN: Pale-appearing, NAD  
HEENT: NCAT. EOMI. dry MM. no JVD. neck supple.  
CV: RRR, normal S1/S2, distant heart sounds, but no murmurs, 
rubs or gallops appreciated.  
LUNG: CTAB, no wheezes, rales or rhonchi  
ABD: soft, NT/ND, +BS. no rebound or guarding. neg HSM.  
EXT: W/WP, no edema, no C/C. 2+ ___ pulses bilaterally.  
SKIN: W/D/I  
NEURO: Alert, appropriately conversant, moving all extremities  
PSYCH: appropriate affect  
 
 
Pertinent Results:
On admission:
___ 06:00PM BLOOD WBC-5.3 RBC-3.36* Hgb-11.7* Hct-33.5* 
MCV-100* MCH-34.7* MCHC-34.8 RDW-13.7 Plt ___
___ 06:00PM BLOOD Neuts-62.7 ___ Monos-5.3 Eos-1.9 
Baso-0.5
___ 06:00PM BLOOD ___ PTT-25.9 ___
___ 06:00PM BLOOD Glucose-112* UreaN-26* Creat-0.7 Na-134 
K-3.9 Cl-97 HCO3-24 AnGap-17
___ 06:17PM BLOOD Lactate-2.0

___ 08:55PM URINE Color-Straw Appear-Clear Sp ___
___ 08:55PM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 08:55PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0

At discharge:
___ 07:35AM BLOOD WBC-3.8* RBC-3.17* Hgb-10.7* Hct-31.9* 
MCV-101* MCH-33.7* MCHC-33.5 RDW-14.1 Plt ___
___ 07:35AM BLOOD Neuts-59.5 ___ Monos-6.5 Eos-2.9 
Baso-0.3
___ 07:35AM BLOOD ___ PTT-31.4 ___
___ 07:35AM BLOOD Glucose-138* UreaN-12 Creat-0.7 Na-140 
K-4.0 Cl-108 HCO3-23 AnGap-13
___ 07:35AM BLOOD ALT-30 AST-33 AlkPhos-75 TotBili-0.3
___ 07:35AM BLOOD Calcium-8.9 Phos-3.0 Mg-1.9

In the interim:
___ 06:15AM BLOOD Cortsol-26.0*
___ 08:30AM BLOOD VitB12-914* Folate-GREATER TH

___ 06:16AM URINE Hours-RANDOM UreaN-503 Creat-36 Na-13 
K-23 Cl-11
___ 06:16AM URINE Osmolal-341

Microbiology:
BCx x2 (___): Clostridium Perfringens in ___ bottles
BCx x2 (___): NGTD

Imaging:
ECG (___):
Sinus rhythm. Left atrial abnormality. Left bundle-branch block. 
Compared to the previous tracing of ___ the A-V interval is 
shorter. Otherwise, no diagnostic interim change.
 IntervalsAxes
___
___

CTA abdomen/pelvis (___):
1.  Stable 6.1 x 6.3 cm partially thrombosed infrarenal aortic 
aneurysm with no periaortic inflammatory changes or draping of 
the aorta along the vertebrae to suggest impending rupture. 
Stable focal ectasia of the bilateral common iliac arteries.
2.  Otherwise, unchanged examination.  Osteoblastic lesions in 
L3 and S1 are concerning for metastases.  Previously noted 
hepatic segment V lesion is better seen on prior study.
3.  Stable right adrenal adenoma.
4.  Diverticulosis without diverticulitis.  

Portable CXR (___):
No acute cardiopulmonary process.
 
Brief Hospital Course:
Ms. ___ is an ___ with history of peripheral vascular disease 
including abdominal aortic aneurysm, coronary artery disease 
status post multiple stents, Alzheimer's dementia, and stage 
IIIB limited small-cell lung cancer status post 4 cycles of 
carboplatin/etoposide (cycle 4 completed ___ and radiation 
therapy (last ___ who presents with generalized weakness 
and hypotension.

Active Issues:
(1)Hypotension: Mild hypotension on admission likely reflected 
hypovolemia in the setting of suggestive history of poor oral 
intake, elevated BUN:Cr, and fluid-responsiveness, though 
infection remained a possibility as below. Morning cortisol was 
normal. Hematocrit on admission was consistent with recent 
baseline, and CTA demonstrated stability of known abdominal 
aortic aneurysm. She remained afebrile and hemodynamically 
stable throughout admission on gentle maintenance intravenous 
fluids with improved oral intake. Although she was noted to be 
orthostatic (blood pressure 140s systolic when supine, down to 
100s after standing) despite fluids, she remained asymptomatic 
and was cleared by physical therapy to return home without home 
physical therapy.

(2)Clostridium perfringens bacteremia: Admission blood cultures 
were notable for Clostridium perfringens positivity in ___ 
bottles, with subsequent blood cultures demonstrating no growth 
to date by the time of discharge. Source of transient 
Clostridial bacteremia versus contamination remained unclear in 
the absence of skin breakdown or active gastrointestinal 
illness. Vancomycin was initiated for empiric coverage of gram 
positive rods, with initiation of metronidazole for double 
coverage upon speciation. Vancomycin and metronidazole were 
discontinued in favor of amoxicillin monotherapy (500mg q8h) at 
the suggestion of the infectious disease service, with a planned 
14-day course beginning ___. She remained afebrile and 
hemodynamically stable without leukocytosis throughout 
admission, with the exception of fluid-responsive hypotension on 
admission as above. 

(3)Macrocytic anemia: Hematocrit remained consistent with recent 
baseline at 32-35 throughout admission. Although noted to be 
mildy macrocytic (100-101), B12 and folate levels were normal. 
She remained hemodynamically stable without ischemic symptoms or 
signs of active bleeding throughout admission.

(4)Thrombocytopenia: She remained thrombocytopenic at 120s-140s 
throughout admission, consistent with recent baseline. She 
remained hemodynamically stable without signs of active bleeding 
throughout admission.

Inactive Issues:
(1)Stage IIIB limited small-cell lung cancer: She received no 
active treatment over the course of admission, and close 
oncology follow-up was arranged in the outpatient setting.

(2)Peripheral vascular disease: Abdominal aortic aneurysm was 
noted to be stable on admission CTA, with no acute intervention 
advised by vascular surgery.

(3)Coronary artery disease: She experienced no ischemic 
symptoms, and home simvastatin was continued throughout 
admission.  

(4)Alzheimer's dementia: Home memantine and donepezil were 
continued throughout admission.

Transitional Issues:
- Treatment of orthostasis may be considered in the outpatient 
setting in the event that she becomes symptomatic.
- She was discharged on amoxicillin 500mg PO q8h for possible 
Clostridium perfringens bacteremia, with a planned 14-day course 
beginning ___.
- Pending studies: BCx (___).
- Code status: Full.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO DAILY 
2. Lidocaine 5% Patch 1 PTCH TD DAILY 
3. Memantine 10 mg PO BID 
4. Nitroglycerin SL 0.3 mg SL PRN chest pain 
5. Omeprazole 20 mg PO DAILY 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Simvastatin 20 mg PO HS 
9. Fish Oil (Omega 3) 1000 mg PO BID 
10. Acetaminophen ___ mg PO TID:PRN pain 

 
Discharge Medications:
1. Acetaminophen ___ mg PO TID:PRN pain 
2. Donepezil 10 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Lidocaine 5% Patch 1 PTCH TD DAILY 
5. Memantine 10 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 
9. Simvastatin 20 mg PO HS 
10. Amoxicillin 500 mg PO Q8H 
RX *amoxicillin 500 mg 1 capsule(s) by mouth Every 8 hours Disp 
#*41 Capsule Refills:*0
11. Nitroglycerin SL 0.3 mg SL PRN chest pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary diagnosis:
Hypotension secondary to hypovolemia
Clostridium perfringens bacteremia

Secondary diagnosis:
Small cell lung cancer
Stable abdominal aortic aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking part in your care during your admission 
to ___. As you know, you were 
admitted for low blood pressure likely because you were not 
eating or drinking much, and your blood pressure improved with 
intravenous fluids. It is very important that you remember to 
eat and drink at home so that your blood pressure does not 
become low again. You also were found to have bacteria growing 
in one of your blood cultures and were started on antibiotics, 
which you should continue to take at home.
 
Followup Instructions:
___